US05521147
To a stirred solution of 5.0 grams (0.03 mole) of 3,4-dihydro-7-fluoro-2H-1-benzopyran-4-one in 100 mL of methanol was added portionwise 3.4 grams (0.09 mole) of sodium borohydride during a one hour period, after which the reaction mixture was stirred for about 18 hours. The reaction mixture was then concentrated under reduced pressure to a residue, which was slurried in water and extracted with methylene chloride. The extract was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue, which was subjected to column chromatography on silica gel, with 1:4 ethyl acetate:hexane as the eluant. The product-containing fractions were combined and concentrated under reduce pressure, yielding 4.4 grams of 3,4-dihydro-7-fluoro-4-hydroxy-2H-1-benzopyran. The NMR spectrum was consistent with the proposed structure. This reaction was repeated several times.

reactant | 3,4-dihydro-7-fluoro-2H-1-benzopyran-4-one | 0.03 mole, 5.0 grams | FC1=CC2=C(C(CCO2)=O)C=C1 | C9H7FO2
reactant | sodium borohydride | 0.09 mole, 3.4 grams | [BH4-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 3,4-dihydro-7-fluoro-4-hydroxy-2H-1-benzopyran | 4.4 grams | FC1=CC2=C(C(CCO2)O)C=C1 | C9H9FO2
